US04677112
1,2,3,4-Tetrahydro-2-oxo-3-quinolinepropanoic acid (2.1 g, 0.0096 mole) is dissolved in acetic anhydride (10 ml) and the solution is heated to 100° C. for one hour. Excess acetic anhydride is removed at reduced pressure and the residual anhydride is removed by addition of toluene and repeated concentration. The solid is recrystallized from ethyl acetate to yield pure 1,2,6,7-tetrahydro-3H,5H-benzo[ij]quinolizine-3,5-dione, mp 136°-140° C.

reactant | 1,2,3,4-Tetrahydro-2-oxo-3-quinolinepropanoic acid | 0.0096 mole, 2.1 g | O=C1NC2=CC=CC=C2CC1CCC(=O)O | C12H13NO3
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1,2,6,7-tetrahydro-3H,5H-benzo[ij]quinolizine-3,5-dione | C1CC(N2C(CCC3=C2C1=CC=C3)=O)=O | C12H11NO2
